US08497278B2
5-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-N-methyl-1,3,4-thiadiazol-2-amine (235)
A solution of 2-(2-(4-chlorophenyl)imidazo[1,2-α]pyridin-3-yl)acetohydrazide (0.1 g, 0.33 mmol) in EtOH (1 mL) was treated with isothiocyanatomethane (0.023 mL, 0.33 mmol) and refluxed for 3 h. The precipitated thiosemicarbazide was filtered and dissolved in concentrated sulfuric acid. The reaction mixture was stirred for 30 min at rt. The mixture was poured into cold water and the precipitated product was filtered in vacuo and washed with ditilled water. The crude product was recrystallized in EtOH to provide the title product as a yellow solid. M/e+ 356 for C17H15ClN5S (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.15 (d, J=6.9 Hz, 1H), 7.71 (d, J=8.4 Hz, 2H), 7.63 (d, J=9.1 Hz, 1H), 7.45 (d, J=8.4 Hz, 2H), 7.22 (m, 2H), 6.84 (t, J=6.6 Hz, 1H), 4.65 (s, 2H), 2.98 (s, 3H) ppm.

reactant | 2-(2-(4-chlorophenyl)imidazo[1,2-α]pyridin-3-yl)acetohydrazide | 0.33 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC(=O)NN | C15H13ClN4O
reactant | isothiocyanatomethane | 0.33 mmol, 0.023 mL | N(=C=S)C | C2H3NS
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-N-methyl-1,3,4-thiadiazol-2-amine | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NN=C(S1)NC | C17H14ClN5S
